US07863302B2
(5-Cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-yl)-methanol
To a 0° C. solution of 5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazole-4-carboxylic acid methyl ester (0.80 g, 2.6 mmol) in THF (8 mL) is added a 1M DIBAL solution in toluene (5.66 mL). The reaction is stirred one hour. An additional 1M DIBAL solution in Toluene (5.66 mL) is added and the reaction is stirred for an additional hour. The reaction is quenched with methanol and is acidified with aqueous HCl solution (1M). The aqueous solution is extracted with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed under reduced pressure to yield the title compound (0.68 g, 93%). ES/MS m/e 284.0 (M+1).

reactant | 5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazole-4-carboxylic acid methyl ester | 2.6 mmol, 0.80 g | COC(=O)C=1C(=NOC1C1CC1)C1=C(C=CC=C1Cl)Cl | C14H11Cl2NO3
reactant | DIBAL | 1M | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 1M | CC(C)C[AlH]CC(C)C
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | toluene | 5.66 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 5.66 mL | C1(=CC=CC=C1)C | C7H8
product | (5-Cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-yl)-methanol | 0.68 g, 93% | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C13H11Cl2NO2
